US09216173B2
To a mixture of tert-butyl (1-amino-3-ethoxypropan-2-yl)carbamate (0.45 g, 2.6 mol) and sodium carbonate (0.29 g, 3.2 mol) in THF (5 mL) and water (3 mL) was added dropwise benzyl chloroformate (0.58 g, 3.4 mol) at 0° C. and then the reaction mixture was allowed to warm to ambient temperature. After 3 hours, the reaction mixture was concentrated under reduced pressure and the resulting residue was purified via reverse phase HPLC (acetonitrile/water with 0.1% TFA, linear gradient) to give benzyl tert-butyl (3-ethoxypropane-1,2-diyl)biscarbamate. MS ESI calc'd. for C18H29N2O5 [M+H]+ 353. found 353. 1H NMR (400 MHz, CD3OD) δ 7.36-7.35 (m, 5H), 5.09 (s, 2H), 3.52-3.49 (m, 1H), 3.42-3.32 (m, 6H), 1.45 (s, 9H), 1.19 (t, J=7.0 Hz, 3H).

reactant | tert-butyl (1-amino-3-ethoxypropan-2-yl)carbamate | 2.6 mol, 0.45 g | NCC(COCC)NC(OC(C)(C)C)=O | C10H22N2O3
reactant | sodium carbonate | 3.2 mol, 0.29 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzyl chloroformate | 3.4 mol, 0.58 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 3 mL | O | H2O
product | benzyl tert-butyl (3-ethoxypropane-1,2-diyl)biscarbamate | C(C)OCC(CNC(OCC1=CC=CC=C1)=O)NC(OC(C)(C)C)=O | C18H28N2O5
